US04423047
2-Benzylthio-5-chloropyrimidine
5-Chloropyrimidine-2-thione (8 mmol) and N,N-dimethylformamide dibenzyl acetal (8 mmol) were heated together in acetonitrile (40 ml) at 70° C. for 90 min. The solvent was then distilled off, the residue dissolved in ether (50 ml), the ether solution extracted with 2 M NaOH (2×5 ml), washed with water (5 ml) and dried (MgSO4) and gaseous HCl passed into the solution. The title compound was precipitated as the HCl-salt; yield 80%. (Physical data: as detailed in Example 2).

reactant | 5-Chloropyrimidine-2-thione | 8 mmol | ClC=1C=NC(NC1)=S | C4H3ClN2S
reactant | N,N-dimethylformamide dibenzyl acetal | 8 mmol | C(C1=CC=CC=C1)OC(N(C)C)OCC1=CC=CC=C1 | C17H21NO2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 2-Benzylthio-5-chloropyrimidine | yield 80% | C(C1=CC=CC=C1)SC1=NC=C(C=N1)Cl | C11H9ClN2S
